US05929085
(b) 7-Nitro-2-ethyl-2,3,4,5-tetrahydro-1,4-benzoxazapine hydrochloride
2-Ethyl-2,3,4,5-tetrahydro-1,4-benzoxazapine hydrochloride (8.0 g, 37.3 mmol) was dissolved in concentrated sulfuric acid (100 ml) and to this was added potassium nitrate (3.77 g, 37.3 mmol) at 0° C. The mixture was allowed to stir for 5 min., dumped onto ice, neutralized with 50% NaOH, and extracted with ethyl acetate (3×100 ml). The combined extracts were washed with water, dried over magnesium sulfate, filtered, and concentrated to an oil. The oil was dissolved in isopropanol and treated with isopropanol-HCl. The salt was filtered off and dried in vacuo (4.4 g, 46%), m.p. 238-240° C.

reactant | 2-Ethyl-2,3,4,5-tetrahydro-1,4-benzoxazapine hydrochloride | 37.3 mmol, 8.0 g | Cl.C(C)C1OC2=C(CNC1)C=CC=C2
reactant | potassium nitrate | 37.3 mmol, 3.77 g | [N+](=O)([O-])[O-].[K+]
reactant | NaOH | [OH-].[Na+]
solvent | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
product | 7-Nitro-2-ethyl-2,3,4,5-tetrahydro-1,4-benzoxazapine hydrochloride | Cl.[N+](=O)([O-])C=1C=CC2=C(CNCC(O2)CC)C1 | InChI=1S/C11H14N2O3.ClH/c1-2-10-7-12-6-8-5-9(13(14)15)3-4-11(8)16-10;/h3-5,10,12H,2,6-7H2,1H3;1H
